US08536214B2
(S)—N-(5-((5-(trifluoromethyl)furan-2-yl)methyl)-2,3-dihydro-1H-inden-2-yl)propane-2-sulfonamide
2-(bromomethyl)-5-(trifluoromethyl)furan (0.123 mmol, 28.2 mg), (S)—N-(5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2,3-dihydro-1H-inden-2-yl)propane-2-sulfonamide (0.123 mmol, 45 mg) and Bromo(N-succinimidyl)bis-(triphenylphosphine)palladium(II) (6.16 μmol, 4.98 mg) were suspended in THF (1 mL) and 2M NaCO3 (0.5 mL) added. The mixture was heated to 100° C. for 10 min. After this time the reaction mixture was irradiated for a further 20 min at 100° C. before standing overnight. The mixture was concentrated to remove THF before partitioning between DCM/H2O. The organic layer was collected and dried using a hydrophobic filter tube. Concentration and purification on basic HPLC gave the title compound (7.5 mg, 0.019 mmol, 15.7%). MS (ESI): m/z [M−H]− 386.3.

reactant | 2-(bromomethyl)-5-(trifluoromethyl)furan | 0.123 mmol, 28.2 mg | BrCC=1OC(=CC1)C(F)(F)F | C6H4BrF3O
reactant | (S)—N-(5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2,3-dihydro-1H-inden-2-yl)propane-2-sulfonamide | 0.123 mmol, 45 mg | CC1(OB(OC1(C)C)C=1C=C2C[C@H](CC2=CC1)NS(=O)(=O)C(C)C)C | C18H28BNO4S
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | (S)—N-(5-((5-(trifluoromethyl)furan-2-yl)methyl)-2,3-dihydro-1H-inden-2-yl)propane-2-sulfonamide | 0.019 mmol, 7.5 mg, 15.7% | FC(C1=CC=C(O1)CC=1C=C2C[C@H](CC2=CC1)NS(=O)(=O)C(C)C)(F)F | C18H20F3NO3S
